US04076821
To 16 g of 1-[4,4-bis(p-fluorophenyl)cyclohexyl]-4-carbamoyl-4-anilinopiperidine is added 30 g of formamide, the temperature is raised slowly, and the mixture is heated at 170° C for 14 hours. After cooling water is added to the reaction mixture, and the aqueous mixture is extracted with chloroform. The extract is washed with water and dried over sodium sulfate, and the solvent is removed. The precipitated crystals are collected by filtration and recrystallized from chloroform to give 8-[4,4-bis(p-fluorophenyl)cyclohexyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one as white crystals, melting at 249°-253° C.

reactant | 1-[4,4-bis(p-fluorophenyl)cyclohexyl]-4-carbamoyl-4-anilinopiperidine | 16 g | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC(CC1)(NC1=CC=CC=C1)C(N)=O)C1=CC=C(C=C1)F | C30H33F2N3O
reactant | formamide | 30 g | C(=O)N | CH3NO
solvent | water | O | H2O
product | 8-[4,4-bis(p-fluorophenyl)cyclohexyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C1=CC=C(C=C1)F | C31H33F2N3O
